US04185016
Then, 1.43 g of the 6,8,9,10,10a,11-hexahydro-3-methyl-1-phenyl-1H-oxazolo[5,4,3-jk]pyrrolo[2,1-C] [1,4]benzodiazepin-6,11-dione was dissolved in 110 ml of methanol. To the solution, cooled to 0° to 5° C., was slowly added 820 mg of sodium boron hydride with stirring, and the whole mixture was stirred at 0° to 5° C. for 2.5 hours. 800 ml of ethyl acetate and 500 ml of water were added to the reaction mixture, the ethyl acetate layer was separated, and the aqueous layer was extracted with ethyl acetate. The both ethyl acetate layers were combined, dehydrated and concentrated under reduced pressure. The concentrate was dissolved in 375 ml of 2:1 mixture of methyl alcohol and 0.01 N hydrochloric acid and subjected to hydrolyzation at room temperature for 3 hours with stirring. The liquid reaction mixture was extracted with chloroform, the chloroform layer was washed with water and then it was concentrated under reduced pressure at a temperature not exceeding 40° C. The concentrate was dissolved in 50 ml of methanol and heated under reflux for 30 minutes. The reaction mixture was concentrated under reduced pressure at 40° C. or below. The concentrate was dissolved into 4 ml of hot methanol, cooled to -20° C. and allowed to stand at this temperature for 3 days. Thus, 0.35 g of 2,3,5,10,11,11a-hexahydro-9-hydroxy-11-methoxy-8-methyl-1H-pyrrolo[2,1-C] [1,4]benzodiazepin-5-one was obtained in a colorless crystalline form. Recrystallization of the resulting product from methanol gave a colorless needle-like crystal having a melting point of 152.5° to 155.5° C.

reactant | 6,8,9,10,10a,11-hexahydro-3-methyl-1-phenyl-1H-oxazolo[5,4,3-jk]pyrrolo[2,1-C] [1,4]benzodiazepin-6,11-dione | 1.43 g | CC1=C2C3=C(C(N4C(C(N3C(O2)C2=CC=CC=C2)=O)CCC4)=O)C=C1 | C20H18N2O3
reactant | sodium boron hydride | 820 mg | B.[Na]
reactant | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 500 ml | O | H2O
solvent | methanol | 110 ml | CO | CH4O
product | 2,3,5,10,11,11a-hexahydro-9-hydroxy-11-methoxy-8-methyl-1H-pyrrolo[2,1-C] [1,4]benzodiazepin-5-one | 0.35 g | OC1=C(C=CC=2C(N3C(C(NC21)OC)CCC3)=O)C | C14H18N2O3
